US08614220B2
Potassium 1-(2-hydroxy-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (A51B5C3Z)
Ethyl 1-(2-hydroxy-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (1.7 g, 3.03 mmol) was suspended in ethanol 96% (50 mL) and treated with a 1.5 M solution of potassium hydroxide in ethanol (8 mL, 12 mmol) at room temperature, overnight. The precipitate was collected by filtration to give the title compound (1.54 g, 89% yield) as a white solid.

reactant | Ethyl 1-(2-hydroxy-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 3.03 mmol, 1.7 g | OCCN1N=C(C=2CCC=3C=NC(=NC3C21)NC2=C(C=CC(=C2)N2CCN(CC2)C)OC(F)(F)F)C(=O)OCC | C26H30F3N7O4
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 12 mmol, 8 mL | C(C)O | C2H6O
product | Potassium 1-(2-hydroxy-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 1.54 g, 89% yield | OCCN1N=C(C=2CCC=3C=NC(=NC3C21)NC2=C(C=CC(=C2)N2CCN(CC2)C)OC(F)(F)F)C(=O)[O-].[K+] | InChI=1S/C24H26F3N7O4.K/c1-32-6-8-33(9-7-32)15-3-5-18(38-24(25,26)27)17(12-15)29-23-28-13-14-2-4-16-20(22(36)37)31-34(10-11-35)21(16)19(14)30-23;/h3,5,12-13,35H,2,4,6-11H2,1H3,(H,36,37)(H,28,29,30);/q;+1/p-1
